US08183255B2
Intermediate L5(ii): 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylic acid
To a solution of ethyl 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylate (3.30 g, 13.0 mmol) in THF (40 mL) and MeOH (40 mL) was added LiOH—H2O (1.64 g, 39.1 mmol). The reaction was allowed to stir for 15 h at which time the solution was filtered to remove undissolved solids and the filtrate concentrated. The resulting material was diluted with water (10 mL), made to pH 5 with HCl (conc), then concentrated in vacuo to yield a white solid (2.9 g, 150%). Mass Spectrum: Calcd for C9H15NF3O2(M+H): 226. Found: 226.

reactant | ethyl 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylate | 13.0 mmol, 3.30 g | FC(CCN1CCC(CC1)C(=O)OCC)(F)F | C11H18F3NO2
reactant | LiOH—H2O | 39.1 mmol, 1.64 g | O[Li].O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | MeOH | 40 mL | CO | CH4O
product | 1-(3,3,3-trifluoropropyl)piperidine-4-carboxylic acid | 2.9 g, 150% | FC(CCN1CCC(CC1)C(=O)O)(F)F | C9H14F3NO2
